US06258812B1
1-(3-Chloro-4-fluoroanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 1.42 g (10 mmol) phosphorus pentoxide, 1.38 g (10 mmol) triethylamine hydrochloride, and 1.46 g (10 mmol) 3-chloro-4-fluoroaniline is heated and stirred in a nitrogen atmosphere at 200° C. until a homogeneous melt has formed. To the melt, 0.593 g (2.5 mmol) 4-(4-pyridylmethyl)-1 (2H)-phthalazinone is added and the reaction mixture stirred for a further 3 h at 200° C. After cooling to RT, the hyalinocrystalline reaction mixture is distributed between 150 ml dichloromethane and a mixture of 10 ml water and 20 ml 2N sodium hydroxide solution with intensive stirring and sonication. The organic phase washed with water and dried over sodium sulfate is concentrated by evaporation and the residue recrystallized from acetate. Title compound is obtained after a second recrystallization from methanol/water and drying under HV (8 h at 10° C.); m.p. 185-187° C.; ESI-MS: (M+H)+=365.

reactant | phosphorus pentoxide | 10 mmol, 1.42 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | triethylamine hydrochloride | 10 mmol, 1.38 g | Cl.C(C)N(CC)CC
reactant | 3-chloro-4-fluoroaniline | 10 mmol, 1.46 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | 4-(4-pyridylmethyl)-1 (2H)-phthalazinone | 2.5 mmol, 0.593 g | N1=CC=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C14H11N3O
reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-(3-Chloro-4-fluoroanilino)-4-(4-pyridylmethyl)phthalazine | ClC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=CC1F | C20H14ClFN4
